* two user-defined functions differing only in case are two functions
* The guard on doc/codex/issues/0020 gap 2's fix.  ft_substdef()
* (src/frontend/define.c) now resolves the typed name with udf_name_eq(),
* whose exact arm is inp_case_mode() == NG_CASE_DISTINGUISH -- Class C of
* doc/claude/decisions/0001-distinguish.md decision 3, because the query is a
* word typed at the control language and the reader folds such a word only
* when it arrived through inp_readall().  So fold and preserve resolve a call
* in either case and this mode does not, and that is what these assertions
* are for: nothing here is RED at the parent commit, and each of the four
* case-sensitive ones below would move if the fix reached this mode --
* ff(2) would print FF's 10, and the three absent lines would appear.  The
* lines beside them, FF(2) and vm(2) and the second gg(2), do not move and
* are there to pin the absences.
*
* Four shapes.  ff and FF hold different multipliers so that a run which
* collapsed them into one function prints the same number twice instead of 6
* and 10.  hh is the Class A site rather than a Class C one -- a formal and a
* body reference on one card -- and its absence is pinned on both sides.  vm
* is ft_cpinit()'s shipped define (src/frontend/cpitf.c), written in lower
* case, so VM(2) is a name no table holds and its line is absent too -- the
* error that says so is one tests/bin/check.sh's filter removes.
* 'undefine GG' is the fourth and it is doc/codex/issues/0027's shape at a
* second name space: a removal that resolves exactly removes nothing, so gg
* is still callable after it and gone after the exact spelling.
* doc/claude/decisions/0013-user-defined-function-identity.md.
.OPTIONS noacct
V1 1 0 ac 1
R1 1 2 1k
C1 2 0 1u
.control
ac lin 1 100 100
define ff(x) x*3
define FF(x) x*5
print ff(2)
print FF(2)
* the Class A site beside them, trcopy()'s formal-parameter match: a formal
* spelled one way and used the other is two names here, so hh's body never
* substitutes and hh(5) has no line between FF(2) and vm(2)
define hh(X) x*2
print hh(5)
* the shipped define answers to the spelling its own table writes, and to no
* other: the second line is absent
print vm(2)
print VM(2)
* undefine is exact here too, so only the second of these two removes gg and
* only the first print of gg(2) has a line
define gg(x) x*7
undefine GG
print gg(2)
undefine gg
print gg(2)
.endc
.end
